US05238599
A mixture of 31 g (0.17 mol) of 2-(trans-4'-butylcyclohexyl) ethanol and 14 g (0.18 mol) of anhydrous pyridine was stirred over an ice water bath and 25 g (0.21 mol) of SOCl2 was added drop-wise to the mixture. The resulting reaction product was stirred and heated with a mantle heater at 105° to 110° C. for 3 hours. The reaction product was cooled to room temperature and poured into a beaker containing ice and concentrated hydrochloric acid. The oily layer was separated out and the aqueous layer was extracted with chloroform. The two layer were combined and washed with an aqueous 10% hydrochloric acid solution and water. The chloroform was distilled off. The residual liquid was distilled in a vacuum (b.p. 96° C./3 mmHg) to yield 30 g (0.15 mol) of 2-(trans-4'-butylcyclohexyl)-1-chloroethane.

reactant | 2-(trans-4'-butylcyclohexyl) ethanol | 0.17 mol, 31 g | C(CCC)[C@@H]1CC[C@H](CC1)CCO | C12H24O
reactant | pyridine | 0.18 mol, 14 g | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 0.21 mol, 25 g | O=S(Cl)Cl | Cl2OS
reactant | hydrochloric acid | Cl | ClH
product | 2-(trans-4'-butylcyclohexyl)-1-chloroethane | 0.15 mol, 30 g | C(CCC)[C@@H]1CC[C@H](CC1)CCCl | C12H23Cl
